### PR TITLE
feat: api and fixes

### PR DESCRIPTION
**Pull request by zhikaip**
adding some more API for what I need

I added `ε > 0 ∧ μ > 0` to `MaxwellEquations` for now, should those sit inside `OpticalMedium` instead? not sure which way is better

### CODE REVIEW

**Comment by jstoobysmith** [comment]
Would probably be better in `OpticalMedium` I think.

File: PhysLean/ClassicalMechanics/Space/VectorIdentities.lean [hunk 1]
```diff
@@ -221,6 +221,24 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
       try apply contDiff_euclidean.mp
       exact hf
 
+lemma grad_zero : ∇ (0 : Space d → ℝ) = 0 := by
+  unfold grad Space.deriv
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/Space/VectorIdentities.lean:226]: If you can replace the `unfold`'s with `rw [grad, Space.deriv]` and similar with the below, this is probably better, but no worries if not. 

The tactic `unfold` can be a bit annoying when one has to refactor as it depends on the exact implementation of the quantities.

File: PhysLean/ClassicalMechanics/Space/VectorIdentities.lean [hunk 2]
```diff
@@ -221,6 +221,24 @@ lemma curl_of_curl (f : Space → EuclideanSpace ℝ (Fin 3)) (hf : ContDiff ℝ
...
+  simp only [fderiv_zero, Pi.zero_apply, ContinuousLinearMap.zero_apply]
+  rfl
+
+lemma div_zero : ∇ ⬝ (0 : Space d → EuclideanSpace ℝ (Fin d)) = 0 := by
```
Comment (jstoobysmith) [inline PhysLean/ClassicalMechanics/Space/VectorIdentities.lean:231]: We can probably add all these `_zero` lemmas to the simp database. 
That is, in the line above each of them write `@[simp]`, then when you use `simp` in the future it will check if these results can be applied.

File: PhysLean/ClassicalMechanics/Space/VectorIdentities.lean (hunk 1 above)
Comment (zhikaip) [reply PhysLean/ClassicalMechanics/Space/VectorIdentities.lean:226]: hmm I tried but doesn't really work, either the `Space.deriv` and dependent definitions can't be rewritten, or some of them are nested inside another function that `rw` can't see through

Comment (jstoobysmith) [reply PhysLean/ClassicalMechanics/Space/VectorIdentities.lean:226]: Ok, no worries, there are probably appropriate lemmas we can include (e.g. a trivial `Space.deriv_def`), but maybe its not worth worrying to much about this.

**Review by jstoobysmith — APPROVED** [review]
Approved - feel free to merge.
